US05834463
(3aR*,10aS*)-9-(4-Aminobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
(3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (5.06 g, 15 mmol) and 10% palladium-carbon (hydrous) (0.5 g) were suspended in a mixture of tetrahydrofuran (15 mL) and methanol (15 mL). The suspension was stirred for 4.5 hours at room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was crystallized from ethyl acetate-hexane to give 3.27 g (yield 71%) of the titled compound, m.p. 149.1°-149.6° C.

reactant | (3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 15 mmol, 5.06 g | [N+](=O)([O-])C1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C19H19N3O3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | (3aR*,10aS*)-9-(4-Aminobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 3.27 g, yield 71% | NC1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C19H21N3O
